data/mechanism_extracts/OrgLett/10.1021_acs.orglett.5c00005.json
{"doi": "10.1021_acs.orglett.5c00005", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical bromide-mediated aminooxygenation of N-vinylbenzamides with pyrazoles to give 2-aryl-4,5-dihydrooxazoles bearing a pyrazolyl group", "mechanism_family": ["mediator_anodic", "radical_polar_crossover", "carbocation"], "electrochemical_role": "Anodic oxidation of Br- to Br2 (bromide acts as redox mediator); Br2 then reacts with the enamide N-H to generate an N-Br intermediate which homolyzes/ionizes to N-centered radical and ultimately a carbocation; cathode reduces protons to H2", "key_intermediates": [{"name": "N-bromo enamide (intermediate A)", "smiles": "O=C(N(Br)C=C)c1ccccc1", "role": "reactive"}, {"name": "vinyl-stabilized N-centered radical (intermediate C, from homolysis of N-Br)", "smiles": null, "role": "reactive"}, {"name": "alpha-carbon radical/iminyl resonance form (intermediate B)", "smiles": null, "role": "transient"}, {"name": "N-acyl iminium / carbocation (intermediate D)", "smiles": null, "role": "reactive"}, {"name": "cyclized oxocarbenium/oxazolinium (intermediate E/F)", "smiles": null, "role": "reactive"}, {"name": "molecular bromine (Br2) / tribromide (Br3-)", "smiles": "BrBr", "role": "reactive"}], "electron_flow": "Br- is anodically oxidized (2e-) to Br2, which brominates the enamide N-H to give N-Br intermediate A; loss of Br- and a further 1e- anodic oxidation generates an N-acyliminium cation D that cyclizes to oxazolinium E/F; pyrazole adds to the cation and deprotonation furnishes product 3, while the cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Product 3 yield dropped to 37%; radical adduct 46 and hydrolysates 47 and 48 detected by HRMS, consistent with N-centered/vinyl radical intermediate C"}, {"name": "pyrazole (carbocation trap)", "smiles": "c1cc[nH]n1", "purpose": "intermediate_trap", "observation": "Carbocation-trapped product 49 plus hydrolysates 47 and 50 detected by HRMS in absence of nBu4NBF4, supporting cation D"}, {"name": "cyclic voltammetry of nBu4NBr / 1 / 2", "smiles": null, "purpose": "redox_probe", "observation": "Br- oxidizes at 0.36 and 0.80 V; substrate 1 and pyrazole 2 show no oxidation peaks 0-0.80 V; catalytic current observed when 1 is added to nBu4NBr, supporting Br- as the mediator"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Authors invoke both radical (C/B) and cationic (D/E/F) intermediates connected by further anodic oxidation (radical-polar crossover). HRMS-detected adducts are the principal evidence; no DFT, KIE, or EPR reported. Trace benzamide observed during scale-up also pointed toward involvement of C/D."}
